US04332829
Preparation of Methylthiomethyl Valerate
This product was prepared according to the procedure described in Example 1, by reacting valeric acid with chloromethyl methyl sulfide in the presence of one equivalent of triethylamine; b.p. 83°-85° C./12 mm Hg, nD20 1.4560.

reactant | valeric acid | C(CCCC)(=O)O | C5H10O2
reactant | chloromethyl methyl sulfide | CSCCl | C2H5ClS
reactant | triethylamine | one equivalent | C(C)N(CC)CC | C6H15N
product | Methylthiomethyl Valerate | C(CCCC)(=O)OCSC | C7H14O2S
